US07838543B2
5-(2,4-Dichloro-phenyl)-pyrazine-2-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide
The title compound is prepared by following a procedure analogous to Example 113, Step 1, using 5-chloro-pyrazine-2-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide (0.077 g, 0.20 mmol) and 2,4-dichloro-phenyl boronic acid. (0.045 g, 0.24 mmol) to afford the product. LC/MS, Retention time=5.12 min; (m/z): calcd for C23H22Cl2N6O2S: 501.4; found: 501.0.

reactant | 5-chloro-pyrazine-2-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | 0.20 mmol, 0.077 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=NC=C(N=C2)Cl)C)C | C17H19ClN6OS
reactant | 2,4-dichloro-phenyl boronic acid | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
product | 5-(2,4-Dichloro-phenyl)-pyrazine-2-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=NC=C(N=C2)C2=C(C=C(C=C2)Cl)Cl)C)C | C23H22Cl2N6OS
